US09403813B2
NaH 60% dispersion in mineral oil (575 mg, 14.4 mmol) was added to a rt solution of EtOH (1.0 mL, 17.1 mmol) in DMF (6.0 mL). After stirring for 40 min at rt, the solution was cooled to 0° C., 2,3-difluorobenzonitrile (1.59 mL, 14.4 mmol) was added dropwise and stirring was continued for 1 h at rt. The rxn mixture was quenched with water and extracted with DCM (2×). The combined org. layers were dried (MgSO4), filtered and concentrated in vacuo to yield 2-ethoxy-3-fluorobenzonitrile as an orange oil. LC-MS B: tR=0.74 min; [M+H]++=no ionization. 1H NMR (CDCl3) δH: 7.66 (m, 2H), 7.27 (m, 1H), 4.32 (q, 2H), 1.35 (t, 3H).

reactant | NaH | [H-].[Na+]
reactant | EtOH | 17.1 mmol, 1.0 mL | CCO | C2H6O
reactant | 2,3-difluorobenzonitrile | 14.4 mmol, 1.59 mL | FC1=C(C#N)C=CC=C1F | C7H3F2N
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
product | 2-ethoxy-3-fluorobenzonitrile | C(C)OC1=C(C#N)C=CC=C1F | C9H8FNO
